Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3],5.27970467635
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8][H:9]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8][H:9],3.92721185689
[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.590983012930001
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.85184951243
[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.71333238053
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.96402802284
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[O:7][C:8][H:9]>>[C:2]([H:3])([H:4])=[C:5]([H:6])[O:7][C:8][H:9].[O:1],1.49173245768
[C:4](=[O:5])[H:6].[O:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10],-4.08208445939
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.8306796157
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.90387850393
[O:1]=[C:2][C:10](/[C:8](=[C:3]/[C:4]([H:5])([H:6])[H:7])[H:9])([H:11])[H:12]>>[O:1]=[C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12],-3.0093067881
[H:1][C:2]#[C:9][C:10]([H:11])([H:12])[H:13].[H:3][C:7](=[C:4]([H:5])[H:6])[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],1.24227773805
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],2.39878412261
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-7.14423662117
[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:1][C:2][O:3].[C:4]([O:5][H:6])=[C:7]([H:8])[H:9],1.6028201451700002
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1],4.35764659058
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][H:9].[O:1],5.93814965364
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.86774222389
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8],4.15035317542
[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-3.77264832045
[C:1]#[C:2][C:3]([H:4])=[C:9]([H:10])[H:11].[C:5]([H:6])([H:7])([C:8])[H:12]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-2.70946967153
[C:1].[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-5.8393722946
[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.3806321497900003
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]1([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],0.46522827296
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-1.83583451964
[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9],-1.96809661744
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.27594256847
[H:1][c:2]1[c:3][c:4]([C:5]([H:6])([H:7])[H:8])[c:9]([H:10])[o:11]1>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:11][C:9][H:10],3.0058660892799995
[H:12].[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.45091170962
